US05929094
(3S,5R,6S,7S)-6-(4-Fluorophenyl)-3-[2-methoxy-5-(5-trifluoromethyl-tetrazol-1-yl)-pyridin-3-yl]-1-oxaspiro[4.4]nonane-7-carboxylic acid methyl ester
The title compound was prepared by hydrogenation with H2 in methanol over 20% palladium hydroxide of 6-(4-fluorophenyl)-3-[2-methoxy-5-(5-trifluoromethyl-tetrazol-1-yl)-pyridin-3-yl]-1-oxaspiro[4.4]non-3-ene-7-carboxylic acid methyl ester by the method given in Example 6, Step G. H NMR (400 MHz, CDCl3): δ 7.435(d, J=3 Hz,1H);7.20-7.28(m, 2H); 6.78-6.85(m, 2H); 6.503(d, J=3 Hz, 1H); 4.12(t, J=7 Hz 1H); 3.67 (m, 1H); 3.55(s,3H); 3.53(s, 3H); 3.27-3.45(m, 1H); 3.15-3.20(m,1H); 3.10(t, J=8 Hz, 1H); 2.25-3.33(m, 2H); 2.15-2.24(m, 1H); 1.85-2.0(m, 2H); 1.69(dd, J=13 Hz, J=9 Hz, 1H). Mass spectrum: 522 (M+1).

reactant | 6-(4-fluorophenyl)-3-[2-methoxy-5-(5-trifluoromethyl-tetrazol-1-yl)-pyridin-3-yl]-1-oxaspiro[4.4]non-3-ene-7-carboxylic acid methyl ester | COC(=O)C1C(C2(C=C(CO2)C=2C(=NC=C(C2)N2N=NN=C2C(F)(F)F)OC)CC1)C1=CC=C(C=C1)F | C24H21F4N5O4
solvent | methanol | CO | CH4O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
product | (3S,5R,6S,7S)-6-(4-Fluorophenyl)-3-[2-methoxy-5-(5-trifluoromethyl-tetrazol-1-yl)-pyridin-3-yl]-1-oxaspiro[4.4]nonane-7-carboxylic acid methyl ester | COC(=O)[C@@H]1[C@H]([C@]2(C[C@H](CO2)C=2C(=NC=C(C2)N2N=NN=C2C(F)(F)F)OC)CC1)C1=CC=C(C=C1)F | C24H23F4N5O4
